US05977105
b) 3'-Nitrobiphenyl-4-ol
Solid 4-methoxy-3'-nitrobiphenyl (1.63 g) was dissolved in acetic acid (25 ml) and then concentrated hydrobromic acid (48%, 25 ml) was added (CAUTION). The mixture was heated at reflux for 2 hours and was then cooled. The reaction mixture was partitioned between ether and water. The organic layer was dried over anhydrous magnesium sulfate, the solution filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with hexane:ether (9:1) to give the sub-title compound as a yellow oil (1.44 g).

reactant | 4-methoxy-3'-nitrobiphenyl | 1.63 g | COC1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO3
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3'-Nitrobiphenyl-4-ol | 1.44 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=C1)O | C12H9NO3
